US09427442B2
Intermediate A-1E: 2-Amino-3-cyclopropoxy-N-methoxy-N-methylbenzamide
In a flask, at room temperature, was added Intermediate A-1D (6.61 g, 34.2 mmol), N,O-dimethylhydroxylamine hydrochloride (10.01 g, 103 mmol), N-Ethyl-N″-(3-Dimethylaminopropyl)carbodiimide hydrochloride (7.87 g, 41.1 mmol) and 1-hydroxybenzotriazole hydrate (6.29 g, 41.1 mmol) in 50 mL of DMF. To the solution was added triethylamine (19.07 mL, 137 mmol). The reaction solution was stirred at 60° C. overnight and then cooled to room temperature. The reaction mixture was partitioned between water and ethyl acetate and transferred to a separatory funnel and the organic layer was washed with 10% LiCl, water, and brine. The organic phase was dried over anhydrous sodium sulfate, filtered and concentrated to provide a dark oil. The crude product mixture was purified via silica gel chromatography (0%-50% of EtOAc/DCM over 15 minutes, 120 g column) to give Intermediate A-1E (5.2 g, 22.01 mmol, 64.3% yield). HPLC: RT=1.975 min (H2O/MeOH with TFA, SunFire C18 3.5 μm, 2.1×30 mm, gradient=4 min, wavelength=220 nm); MS(ES):m/z=237.12 [M+H]+; 1H NMR (400 MHz, chloroform-d) δ 7.17 (dd, J=8.0, 1.2 Hz, 1H), 7.02 (dd, J=7.9, 1.3 Hz, 1H), 6.67 (t, J=7.9 Hz, 1H), 4.78 (br. s., 2H), 3.88-3.73 (m, 1H), 3.69-3.56 (m, 3H), 3.36 (s, 3H), 0.92-0.72 (m, 4H).

reactant | N,O-dimethylhydroxylamine hydrochloride | 103 mmol, 10.01 g | Cl.CNOC
reactant | 1-hydroxybenzotriazole hydrate | 41.1 mmol, 6.29 g | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 137 mmol, 19.07 mL | C(C)N(CC)CC | C6H15N
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | H2O MeOH | O.CO
product | 2-Amino-3-cyclopropoxy-N-methoxy-N-methylbenzamide | 64.3% yield | NC1=C(C(=O)N(C)OC)C=CC=C1OC1CC1 | C12H16N2O3
